US08563279B2
363 mg (1.0 mmol, 1.03 eq) zinctriflate, 1 ml (18.5 mmol, 19 eq) nitromethane and 174 μl (1.0 mmol, 1.03 eq) diisopropylethylamine were placed in a dry schlenk vessel under Nitrogen. The yellow slurry was cooled in ice and 153.3 mg (0.97 mmol) (S)-methyl 2-isopropyl-4-oxobutanoate was added. The reaction mixture was stirred for 3 h, after which it was quenched with 2 ml 1 N ammonium chloride solution. After separation the water phase was extracted 3 times with 4 ml dichloromethane and the combined organic phases were washed with 4 ml brine and dried with Na2SO4, yielding 365 mg crude material after film evaporation, which contained still diisopropylethylamine according to NMR. The material was dissolved in 5 ml dichloromethane, washed 3 times with 1 ml 1 N HCl, dried with sodiumsulphate yielding 161 mg after removal of the solvent. Column separation (30/70 v/v ethylacetate/heptane) gave the pure target compound (3S)-3-isopropyl-5-(nitromethyl)dihydrofuran-2(3H)-one.

reactant | nitromethane | 18.5 mmol, 1 ml, 19 eq | [N+](=O)([O-])C | CH3NO2
reactant | diisopropylethylamine | 1.0 mmol, 174 μl, 1.03 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (S)-methyl 2-isopropyl-4-oxobutanoate | 0.97 mmol, 153.3 mg | C(C)(C)[C@@H](C(=O)OC)CC=O | C8H14O3
product | (3S)-3-isopropyl-5-(nitromethyl)dihydrofuran-2(3H)-one | C(C)(C)[C@H]1C(OC(C1)C[N+](=O)[O-])=O | C8H13NO4
